US05624943
Under the conditions of example 14 A, a solution of 500 mg of 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid-methyl ester in 5 ml of methanol is hydrogenated in the presence of 50 mg of 10% palladium catalyston activated carbon and worked up. The crude product is chromatographed on silica gel with hexane/0-30% ethyl acetate. 266 mg of 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethyl]-2-pyridyl}-propionic acid-methyl ester of melting point 90°-91° is obtained.

reactant | 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethinyl]-2-pyridyl}-propionic acid-methyl ester | 500 mg | COC(CCC1=NC(=CC=C1O)C#CC1=CC=C(C=C1)CC(=O)OC)=O | C20H19NO5
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium | 50 mg | [Pd] | Pd
product | 3-{3-hydroxy-6-[2-(4-methoxycarbonylmethylphenyl)-ethyl]-2-pyridyl}-propionic acid-methyl ester | 266 mg | COC(CCC1=NC(=CC=C1O)CCC1=CC=C(C=C1)CC(=O)OC)=O | C20H23NO5
